US04128429
N,N-Dibutylaminoethyl Tributylstannyl Ether is prepared from 59.6 gm (0.1 mole) bis(tributyltin) oxide and 34.6 gm (0.2 mole) N,N-dibutylethanolamine in 200 ml benzene. This is stirred and heated to reflux in a system that contains a Dean-Starke tube. After 30 minutes water began to collect in the Dean-Starke tube and after refluxing for a period of 22 hours a total of 1.8 ml of water (theory 1.8 ml) had collected. A rotating evaporator is used to remove the benzene and to provide 95.1 gm of red-orange liquid. This is fractionated at reduced pressure with collection at 163°-166° C. at 0.7 mm of 73.1 gm of yellow liquid (Percent yield - 79). Infrared spectral analysis shows this to be the desired ether.

reactant | bis(tributyltin) oxide | 0.1 mole, 59.6 gm | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | N,N-dibutylethanolamine | 0.2 mole, 34.6 gm | C(CCC)N(CCO)CCCC | C10H23NO
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N,N-Dibutylaminoethyl Tributylstannyl Ether | C(CCC)[Sn](CCCC)(CCCC)OCCN(CCCC)CCCC | InChI=1S/C10H22NO.3C4H9.Sn/c1-3-5-7-11(9-10-12)8-6-4-2;3*1-3-4-2;/h3-10H2,1-2H3;3*1,3-4H2,2H3;/q-1;;;;+1
